US04252964
A solution of 20.0 g (0.2 mole) of trans-propenyl acetate and 101.0 g (0.6 mole) of bis(dimethylamino)-tert.-butoxymethane under argon was heated at 50° C. overnight (161/2 hours). The excess reagent was removed by vacuum distillation (0.7 mmHg, oil bath at 50° C.). The residue was chromatographed rapidly on 300 g of silica gel 60 eluting with ethyl acetate/hexane (2:3 parts by volume) to give 28.2 g (91%) of trans-3-(dimethylamino)-2-propenoic acid, trans-propenyl ester which was used in the next step with no further purification. This material was sublimed (to remove yellow color) at 40°-50° C. 0.2 mmHg. The analytical sample was recrystallized from pentane. Mp 48°-48.5° C.

reactant | trans-propenyl acetate | 0.2 mole, 20.0 g | C(C)(=O)O\C=C\C | C5H8O2
reactant | bis(dimethylamino)-tert.-butoxymethane | 0.6 mole, 101.0 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
product | trans-3-(dimethylamino)-2-propenoic acid, trans-propenyl ester | 28.2 g, 91% | CN(/C=C/C(=O)O\C=C\C)C | C8H13NO2
